US03975443
A solution of N-[2-methylamino-2-methyl propyl]benzamide (1 g., 0.0052 mole) in MEK (50 ml.) was added to a solution of cyclopropyl carbinol bromide (0.66 g.,) in MEK (30 ml.) containing sodium carbonate (0.55 g.,) and a few crystals of sodium iodide. The mixture was refluxed for 24 hrs. and then filtered and the excess MEK evaporated under reduced pressure to give a liquid residue. This was passed down an alumina column, eluting with ethyl acetate to give N-[2-[(cyclopropylmethyl)methylamino]-2-methylpropyl]benzamide (0.9 g.).

reactant | N-[2-methylamino-2-methyl propyl]benzamide | 0.0052 mole, 1 g | CNC(CNC(C1=CC=CC=C1)=O)(C)C | C12H18N2O
reactant | cyclopropyl carbinol bromide | 0.66 g | [Br-].C1(CC1)CO
reactant | sodium carbonate | 0.55 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | [I-].[Na+]
solvent | MEK | 50 ml | CCC(=O)C | C4H8O
solvent | MEK | 30 ml | CCC(=O)C | C4H8O
product | N-[2-[(cyclopropylmethyl)methylamino]-2-methylpropyl]benzamide | 0.9 g | C1(CC1)CN(C(CNC(C1=CC=CC=C1)=O)(C)C)C | C16H24N2O
